** sch_path: /foss/designs/PROJECTS/os-ina-pso-mixdes_2026/Xschem Simulations/FDDA_CMFB/FDDA.sch
**.subckt FDDA V_PP V_PN V_NP V_NN VDD V_CMFB VSS V_OP V_ON
*.ipin V_PP
*.ipin V_PN
*.ipin V_NP
*.ipin V_NN
*.iopin VDD
*.ipin V_CMFB
*.iopin VSS
*.opin V_OP
*.opin V_ON
XMP1 net5 V_PP net1 net1 sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP2 net6 V_PN net1 net1 sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP3 net6 V_NP net2 net2 sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP4 net5 V_NN net2 net2 sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP5 net3 V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L={L_2} W={W_2} nf=1 ad='int((1 + 1)/2) * {W_2} / 1 * 0.29' as='int((1 + 2)/2) * {W_2} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_2} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_2} / 1 + 0.29)' nrd='0.29 / {W_2} ' nrs='0.29 / {W_2} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP6 net4 V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L={L_2} W={W_2} nf=1 ad='int((1 + 1)/2) * {W_2} / 1 * 0.29' as='int((1 + 2)/2) * {W_2} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_2} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_2} / 1 + 0.29)' nrd='0.29 / {W_2} ' nrs='0.29 / {W_2} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP7 V_ON V_B4 net3 net3 sky130_fd_pr__pfet_01v8 L={L_3} W={W_3} nf=1 ad='int((1 + 1)/2) * {W_3} / 1 * 0.29' as='int((1 + 2)/2) * {W_3} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_3} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_3} / 1 + 0.29)' nrd='0.29 / {W_3} ' nrs='0.29 / {W_3} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP8 V_OP V_B4 net4 net4 sky130_fd_pr__pfet_01v8 L={L_3} W={W_3} nf=1 ad='int((1 + 1)/2) * {W_3} / 1 * 0.29' as='int((1 + 2)/2) * {W_3} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_3} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_3} / 1 + 0.29)' nrd='0.29 / {W_3} ' nrs='0.29 / {W_3} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP11 net1 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L={L_6} W={W_6} nf=1 ad='int((1 + 1)/2) * {W_6} / 1 * 0.29' as='int((1 + 2)/2) * {W_6} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_6} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_6} / 1 + 0.29)' nrd='0.29 / {W_6} ' nrs='0.29 / {W_6} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP12 net2 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L={L_6} W={W_6} nf=1 ad='int((1 + 1)/2) * {W_6} / 1 * 0.29' as='int((1 + 2)/2) * {W_6} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_6} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_6} / 1 + 0.29)' nrd='0.29 / {W_6} ' nrs='0.29 / {W_6} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN3 V_ON V_B3 net5 net5 sky130_fd_pr__nfet_01v8 L={L_4} W={W_4} nf=1 ad='int((1 + 1)/2) * {W_4} / 1 * 0.29' as='int((1 + 2)/2) * {W_4} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_4} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_4} / 1 + 0.29)' nrd='0.29 / {W_4} ' nrs='0.29 / {W_4} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN4 V_OP V_B3 net6 net6 sky130_fd_pr__nfet_01v8 L={L_4} W={W_4} nf=1 ad='int((1 + 1)/2) * {W_4} / 1 * 0.29' as='int((1 + 2)/2) * {W_4} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_4} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_4} / 1 + 0.29)' nrd='0.29 / {W_4} ' nrs='0.29 / {W_4} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN9 net5 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN10 net6 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
V4 V_B4 VSS {V_B4}
V3 V_B3 VSS {V_B3}
V2 V_B2 VSS {V_B2}
V1 V_B1 VSS {V_B1}
**.ends
.end
